US07981896B2
2-(4-Hydroxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid cyclohexylamide.
To a solution of 2-(4-methoxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid cyclohexylamide (630 mg, 2.01 mmol) in methylene chloride (30 mL) at −40° C. was added boron tribromide (6 mL, 1 M in DCM, 6 mmol). After the reaction was stirred at −40° C. for 10 minutes and at room temperature for 2 hours, it was quenched with saturated sodium bicarbonate. Ethyl acetate was added, and the mixture was stirred for 1 hour. The layers were separated, and the aqueous layer was extracted an additional time with ethyl acetate. The combined organic layers were washed with water and brine, dried (MgSO4), and concentrated to give 600 mg of the title compound which was used in the next reaction without further purification. LC-MS (C17H21N3O2 calculated 299) m/z 300 (M+H).

reactant | 2-(4-methoxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid cyclohexylamide | 2.01 mmol, 630 mg | C1(CCCCC1)NC(=O)C=1N(N=C(C1)C)C1=CC=C(C=C1)OC | C18H23N3O2
reactant | boron tribromide | 6 mmol, 1 M, 6 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Hydroxyphenyl)-5-methyl-2H-pyrazole-3-carboxylic acid cyclohexylamide | 600 mg | C1(CCCCC1)NC(=O)C=1N(N=C(C1)C)C1=CC=C(C=C1)O | C17H21N3O2
